Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Flagyl
 
Attending: ___.
 
Chief Complaint:
enterocutaneous fistula
 
Major Surgical or Invasive Procedure:
- I&D of fistula in R abdomen (Beside by colorectal surgery 
team) with stoma bag placed overlying

 
History of Present Illness:
Mr. ___ is a ___ yo M with PMH significant for Crohn's 
Disease (diagnosed ___, GERD, and several surgeries for 
enterocutaneous fistulas (ECFs) who presents to ___ with 
abdominal pain and "abdominal mass" near past appendectomy site 
___ years ago) on ___. He notes that on ___ he began to have 
pain in his RLQ near his appendectomy site. The pain was 
sharp/stabbing, ___, did not radiate, quickly appeared and 
dissipated over 15 or so seconds, and came on spontaneously 
without a precipitating stimulus. It would occur once every few 
hours. He also noted fullness in the RLQ, as well as the 
development of a new ECF in his lower lumbar region. On ___ he 
states that the pain became "really bad," and began to be 
precipitated by flexing of the abdominal muscles and getting up 
(from being seated or laying down). It is not precipitated by 
walking. He noticed a large lump in the same region as the 
appendectomy scar, and the pain is focused in the lump. The 
fullness worsened. He also noticed erythema in the same area on 
___. He was urged to go to the hospital by his PCP; he went to 
___, was evaluated, and was told to come to a 
larger hospital, after which he came to ___.

Mr. ___ history with CD extends back to the ___; he had 
a lump on his skin which discharged fluid, which he now believes 
to be his first fistula. It spontaneously resolved, and he did 
not have others until ___ when he noticed discharge from his 
skin once more. In ___ he developed two ECFs in his 
perianal region; he underwent surgery for them in early ___ 
without resolution. He was diagnosed with CD in ___ after 
presenting with sharp, spontaneous abdominal pain similar to 
that noted on ___ above. He was started on Remicade in ___, and ___ in ___. He was on a  prednisone 40 mg taper 
for flare in ___ with last dose 6 weeks ago. His 
symptoms resolved with the high dose prednisone. Since being 
prescribed Remicade and ___, he has been compliant with his 
medication regimens. His last Remicade dose on ___. He 
attributes a 40 lbs weight gain on prednisone over ___ months 
and had fatigue after coming off of prednisone.

In the ED, initial VS were T 99.7 HR 96 BP 172/87 RR 18 O2 100% 
RA.   
Labs showed:
LYTES
Na 135 Cl   97 BUN 12 Glu 92   AGap=19  
K  4.2 HCO3 23 Cr  1.0

CBC W/ DIFF
WBCs 16.8 Hgb 11.8 Hct 37.0 Plt 423 
PMN:88.4 L:4.0 M:6.1 E:0.3 Bas:0.4 ___: 0.8 Absneut: 14.86 
Abslymp: 0.67 Absmono: 1.03 Abseos: 0.05 Absbaso: 0.06

LFTs
ALT: 8 AP: 67 Tbili: 0.8 Alb: 3.7 
AST: 12 Lip: 13

Lactate 1.0 (Venous blood)
___ 14.8 PTT 27.8 INR 1.4

Imaging showed:
___ OSH CT Torso: pending ___ read, no access to OSH read

In the ED, he received IV Morphine 4 mg, IV Zofran 4 mg, IV Vanc 
1000 mg twice (0310, 1151 hours), IV Zosyn 4.5 g x 3 (0237, 
1116, 1707 hours), Tylenol ___ mg PO, and 1 L NS.
   
Colorectal, ACS, and GI were consulted. Colorectal recommended 
admitting to medicine, IV vanc/zosyn, medical management of CD, 
and avoiding ___ aspiration in order to prevent commitment to 
ECF. ACS signed off with the same recommendations and colorectal 
as consult. GI recommends zosyn, colorectal consult, review OSH 
CT, holding remicade and ___, bowel rest (NPO), avoiding NSAIDs 
and narcotics, and DVT PPX.

Decision was made to admit to medicine for further management.  
On arrival to the floor, patient reports intermittent nausea 
yesterday beginning at 11 AM with associated dry heaving; this 
is improved today. He has not had a BM in a couple of days, but 
also reports eating less than usual. Otherwise, on ROS he denies 
fever, chills, night sweats, fatigue, weight loss, mouth pain, 
headache, vision changes, rhinorrhea, sore throat, dysphagia, 
cough, shortness of breath, chest pain, abdominal pain, 
vomiting, diarrhea, BRBPR, melena, hematochezia, dysuria, 
hematuria, rash, and leg swelling.
All other 10-system review negative in detail.  

 
Past Medical History:
CD, diagnosed ___
GERD, diagnosed ___
Osteoporosis
Surgery for ECFs, ___
Appendectomy, ___ 

 
Social History:
___
Family History:
No family history of IBD or GI cancers.
Mother: alive, hx of asthma and ___
Father: deceased, lung cancer
Maternal family hx of stroke in grandfather, grandmother, and 
uncle.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS T 101.5 BP 126/66 HR 89 RR 19 O2 97% RA
GENERAL: NAD, well-developed, well-nourished, cooperative with 
interview  
HEENT: AT/NC, EOMI, PERRL w/o RAPD, anicteric sclera, pink 
conjunctiva, MMM, poor dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: active BS, 8 cm scar in RLQ with large area of 
surrounding erythema, large fluctuant subcut fat, underlying the 
scar ~10cm, RLQ is tense, no guarding, no hepatosplenomegaly
perirectal abscess notable with wet pads 2cm x 3cm, two smaller 
enterocutaneous fistulas also near site of perirectal abscess 
(1cm x 2cm, other 2cm x 2cm, both draining and mildly purulent); 
large erythematous band across abdomen and back
EXTREMITIES: no cyanosis or clubbing, moving all 4 extremities 
with purpose, relatively cold feet, 1+ pitting edema in ___ b/l 
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: no excoriations or lesions, no rashes

DISCHARGE PHYSICAL EXAM
=======================
VS - 98 141/77, 69, 16, 99% r.a.
General: well appearing, NAD  
HEENT: MMM, EOMI, poor dentition  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably  
Abd: active BS, focal erythematous 4cm x 5cm area, two smaller
enterocutaneous fistulas also near site of perirectal abscess
(1cm x 2cm, other 2cm x 2cm, both draining and mildly purulent);
appears improved from admission (denoted in marker) with less
erythema on the LLQ
STOMA IN PLACE DRAING SANGINOUS FLUID, CLEAN AROUND SITE
GU: deferred
Ext: LEs relatively cool, pulses present b/l, +1 pitting edema 
Neuro: grossly normal  
 
Pertinent Results:
ADMISSION LABS

___ 01:40AM   WBC-16.8* RBC-3.77* HGB-11.8* HCT-37.0* 
MCV-98 MCH-31.3 MCHC-31.9* RDW-12.8 RDWSD-46.4*
___ 01:40AM   NEUTS-88.4* LYMPHS-4.0* MONOS-6.1 EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-14.86* AbsLymp-0.67* AbsMono-1.03* 
AbsEos-0.05 AbsBaso-0.06
___ 01:40AM   PLT COUNT-423*
___ 01:40AM   LIPASE-13
___ 01:40AM   GLUCOSE-92 UREA N-12 CREAT-1.0 SODIUM-135 
POTASSIUM-4.2 CHLORIDE-97 TOTAL CO2-23 ANION GAP-19
___ 07:40AM   ___ PTT-27.8 ___
___ 04:30AM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-80 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:30AM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

 

 
___ 9:38 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
      ADDED CGD, OAP, FEC, CCU, ROE, ROV, ___ @ 1330 ON ___. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH significant for 
Crohn's Disease, GERD, and prior surgery for ECFs admitted for 
medical management of Crohn's flare including
enterocutaneous fistulas. 

# Enterocutaneous fistula (ECFs)/abscesses: 
Patient has several fistulas, including a possible ECF across R 
abdomen and persistent perirectal abscess. Notable pain with 
superimposed cellulitis, notable red band across lower abdomen 
to the back. Given ECFs, concern for Gram positive and Gram neg 
and anaerobe coverage, pt initially on vanc/zosyn then narrowed 
to zosyn. Pt had full fistulization on ___. As such, surgery 
came and I&D'ed abscess and put a stoma bag to collect expected 
drainage. In conjunction with GI and colorectal, pt was 
transitioned to po augmentin which he tolerated well and 
instructed to continue augmentin indefinitely until GI 
appointment and colorectal appointment. Pt was able to tolerate 
a regular diet at time of discharge.

#Crohn's Disease: 
Refractory to multiple thearpies, closely followed by GI. 
Treated at home with remicade and ___. Flares seem to respond 
to high dose prednisone. Current pain is similar to CD flare 
pain, but can now be precipitated by flexion of abdominal 
muscles. Pt's remicade and ___ were held in setting of local 
infection with plans for close GI follow-up to determine future 
immunosuppressive therapy. Pt's diet was advanced from clears to 
regular at time of discharge. Pt is to follow up with 
gastroenterology regarding antibiotics and restarting biologic 
drug for Crohn's.

#Sepsis: 
Initially met SIRS critiera on admission given WBC > 18, 
initially fever > 101.5, known GI source given abscess and 
fistulas. Pt is to continue po augmentin indefinitely until GI 
appt. 

#Pain: 
Notable pain during hospitalization controlled with IV Tylenol. 
Required few IV morphine 1mg for breakthrough pain.

TRANSITIONAL
==============
- Pt is to continue po augmentin indefinitely until 
gastroenterology appointment with Dr. ___ in 
___ clinic.
- Pt is to follow-up with Dr. ___ in the colon & rectal 
surgery clinic at ___ for consideration of possible surgical 
intervention
- Pt is to keep the fistula site with stoma bag clean and dry, 
has been taught by the wound care nurses at ___ support 
also setup.

CODE: Full (confirmed)
COMMUNICATION: Patient 
EMERGENCY CONTACT HCP: ___ ___ 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Mercaptopurine 75 mg PO DAILY 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. Omeprazole 40 mg PO QHS 
4. Multivitamins 1 TAB PO DAILY 
5. calcium citrate 1 tab oral DAILY 
6. Vitamin D 3000 UNIT PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth Twice a day Disp #*60 Tablet Refills:*1 
2.  calcium citrate 1 tab oral DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Omeprazole 40 mg PO QHS  
5.  Vitamin D 3000 UNIT PO DAILY  
6. HELD- Mercaptopurine 75 mg PO DAILY Duration: 1 Dose  This 
medication was held. Do not restart Mercaptopurine until seeing 
your GI doctor

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
Enterocutaneous fistula/abscess from Crohn's disease 
Sepsis meeting SIRS critieria and known infectious source 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted for your Crohn's disease and fistulas from 
your bowel. You had redness, pain, swelling in your abdomen and 
you were followed by the gastroenterology and colorectal surgery 
teams while you were hospitalized. We gave you antibiotics for 
your infection at the site. You are to continue an oral 
antibiotic while you are home until your appointments with 
colorectal surgery and gastroenterology. The antibiotics will 
also help with your Crohn's.

The surgical team cleaned and debrided the abscess and put on a 
stoma bag for drainage. You will have a visiting nurse assist to 
show you how to care for the site.

You are to follow-up with both the gastroenterology and 
colorectal teams. These appointments have been made for you. 
Please continue to keep the stoma clean. You are allowed to 
shower as long as the area around the stoma is dry. If you have 
worsening pain, redness, swelling or abnormal drainage from the 
stoma, please return for immediate evaluation.

It was a pleasure taking care of you at ___!
Your ___ Team
 
Followup Instructions:
___